US07361675B2
In 12 ml of chloroform, 1.5 g of 3-methylthio-5-(3-chlorophenyl)-1,2,4-thiadiazole was dissolved, to the resulting solution was slowly added 5.85 g of 3-chloroperoxybenzoic acid (65%<) with ice-cooling, and the mixture was stirred for 30 minutes with ice-cooling, and at room temperature for 2 hours. The reaction mixture was poured into an aqueous sodium sulfite solution, and the layers were separated. The organic layer was washed with an aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, and concentrated to obtain 1.44 g of 3-methylsulfonyl-5-(3-chlorophenyl)-1,2,4-thiadiazole.

reactant | 3-methylthio-5-(3-chlorophenyl)-1,2,4-thiadiazole | 1.5 g | CSC1=NSC(=N1)C1=CC(=CC=C1)Cl | C9H7ClN2S2
reactant | 3-chloroperoxybenzoic acid | 5.85 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylsulfonyl-5-(3-chlorophenyl)-1,2,4-thiadiazole | 1.44 g | CS(=O)(=O)C1=NSC(=N1)C1=CC(=CC=C1)Cl | C9H7ClN2O2S2
